US05175320
f) 3α-hydroxy-6α-fluoro-7-keto-5β-cholanoic acid.
A solution of methyl 3α-hydroxy-6α-fluoro-7-keto-5β-cholanoate (0.6 g, 1.42 mmoles) in methanol (46 ml) was added to a methanol solution of 10% potassium hydroxide (82 ml) and the resulting solution was kept under magnetic stirring overnight. Then methanol was removed under vacuum, the residue was taken up into water (50 ml), acidified with 10% hydrochloric acid and extracted with methylene chloride (3×30 ml). The combined organic phases were washed with brine (1×20 ml) and dried over sodium sulfate. After evaporation of the solvent, the residue (0.62 g) was subjected to flash chromatography on silica, eluting with methylene chloride/methanol 95:5, to obtain 0.55 g of a pure product (95%).

reactant | methyl 3α-hydroxy-6α-fluoro-7-keto-5β-cholanoate | 1.42 mmoles, 0.6 g | O[C@H]1C[C@H]2[C@H](C([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O)F | C25H39FO4
reactant | potassium hydroxide | 82 ml | [OH-].[K+]
solvent | methanol | 46 ml | CO | CH4O
product | 3α-hydroxy-6α-fluoro-7-keto-5β-cholanoic acid | 0.55 g, 95% | O[C@H]1C[C@H]2[C@H](C([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O)F | C24H37FO4
